US07423159B2
To a mixture of ethyl (2E)-3-(1-methyl-1H-pyrazol-4-yl)acrylate (2.5 g), methanol (20 ml) and tetrahydrofuran (20 ml) was added a 2N aqueous sodium hydroxide solution (13.9 ml) and the mixture was stirred at 60° C. for 3 hrs. 1N Hydrochloric acid was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate, and concentrated to give (2E)-3-(1-methyl-1H-pyrazol-4-yl)acrylic acid (1.75 g, 83%) as an amorphous form.

reactant | ethyl (2E)-3-(1-methyl-1H-pyrazol-4-yl)acrylate | 2.5 g | CN1N=CC(=C1)/C=C/C(=O)OCC | C9H12N2O2
reactant | methanol | 20 ml | CO | CH4O
reactant | sodium hydroxide | 2N, 13.9 ml | [OH-].[Na+]
reactant | Hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (2E)-3-(1-methyl-1H-pyrazol-4-yl)acrylic acid | 1.75 g, 83% | CN1N=CC(=C1)/C=C/C(=O)O | C7H8N2O2
